US08975250B2
10.1: 1.5-Difluoro-3-methoxy-2-nitrobenzene
To a solution of 2.45 g (14.0 mmol) of 1,3,5-trifluoro-2-nitrobenzene in acetone are successively added 2.9 g (21.0 mmol) of K2CO3 powder and 3.5 mL (56.0 mmol) of methyl iodide. The reaction mixture is heated at 50°C. for 2 hours and then filtered and evaporated to dryness. The residue is taken up in ethyl acetate and washed with water and with saturated aqueous NaCl solution. The organic phase is dried over Na2SO4, filtered and concentrated under vacuum. 2.52 g of the expected product are recovered in the form of a yellow solid, which is used as obtained in the following step. Yield=95%.

reactant | 1,3,5-trifluoro-2-nitrobenzene | 14.0 mmol, 2.45 g | FC1=C(C(=CC(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | K2CO3 | 21.0 mmol, 2.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 56.0 mmol, 3.5 mL | CI | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | 1.5-Difluoro-3-methoxy-2-nitrobenzene | Yield=95% | FC1=C(C(=CC(=C1)F)OC)[N+](=O)[O-] | C7H5F2NO3
